US08084614B2
A mixture of 2-bromo-3,5-dichloropyridine (2.72 g, 12 mmol), 4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester (1.78 g, 6 mmol)), 2N Na2CO3 (9.0 mL, 18 mmol), Pd(PPh3)4 (0.35 g, 0.3 mmol) in toluene/ethanol (30 mL/6 mL) was sealed and heated at 90° C. for 12 hrs. The mixture was concentrated and partitioned between ethyl acetate and water. The ethyl acetate layer was washed with water and brine and was dried over MgSO4. After filtration and concentration, purification by silica gel chromatography eluting with ethyl acetate/hexane (5/95) gave 4-chloro-3-(3,5-dichloro-pyridin-2-yl)-benzoic acid methyl ester (1.8 g). MS (M+H)+: 315.6, tR=8.505 min (method 2)

reactant | 2-bromo-3,5-dichloropyridine | 12 mmol, 2.72 g | BrC1=NC=C(C=C1Cl)Cl | C5H2BrCl2N
reactant | 4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 6 mmol, 1.78 g | COC(C1=CC(=C(C=C1)Cl)B1OC(C(O1)(C)C)(C)C)=O | C14H18BClO4
reactant | Na2CO3 | 18 mmol, 2N, 9.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene ethanol | 30 mL | C1(=CC=CC=C1)C.C(C)O
catalyst | Pd(PPh3)4 | 0.3 mmol, 0.35 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-3-(3,5-dichloro-pyridin-2-yl)-benzoic acid methyl ester | 1.8 g | COC(C1=CC(=C(C=C1)Cl)C1=NC=C(C=C1Cl)Cl)=O | C13H8Cl3NO2
